US08957068B2
To a microwave vial with stir bar was added (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (30 mg, 0.12 mmol) and DMSO (1 mL). To this reaction mixture was added (S)-1-(2-fluoro-4-(1-methylcyclopropyl)phenyl)ethanamine (51 mg, 0.22 mmol) and DIEA (0.09 ml, 0.50 mmol). The vial was capped and the reaction mixture was heated in a preheated oil bath at 110° C. for 18 hr. Solution was purified by reverse phase HPLC. Product fractions combined, frozen and lyophilized to afford (S)-3-(2-((S)-1-(2-fluoro-4-(1-methylcyclopropyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one (3.3 mg, 6.3 μmol, 5% yield) as a TFA salt. 1H NMR (400 MHz, CD3OD) δ 0.58 (br. s., 3H) 0.77 (td, J=5.23, 1.76 Hz, 5H) 0.80-0.86 (m, 2H) 1.38 (s, 3H) 1.57 (d, J=6.94 Hz, 3H) 4.34-4.41 (m, 2H) 4.67 (br. s., 1H) 5.33 (d, J=7.97 Hz, 1H) 6.95-7.05 (m, 2H) 7.22 (t, J=7.97 Hz, 1H) 7.67 (d, J=6.85 Hz, 1H) 8.14 (d, J=6.65 Hz, 1H). LCMS m/z 399.4 (M+H)+, Rt 0.93 min. HRMS(A) m/z 399.2202 (M+H)+, Rt 2.23 min.

reactant | (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.12 mmol, 30 mg | ClC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12ClN3O2
reactant | (S)-1-(2-fluoro-4-(1-methylcyclopropyl)phenyl)ethanamine | 0.22 mmol, 51 mg | FC1=C(C=CC(=C1)C1(CC1)C)[C@H](C)N | C12H16FN
reactant | DIEA | 0.50 mmol, 0.09 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (S)-3-(2-((S)-1-(2-fluoro-4-(1-methylcyclopropyl)phenyl)ethylamino)pyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 6.3 μmol, 3.3 mg, 5% yield | FC1=C(C=CC(=C1)C1(CC1)C)[C@H](C)NC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C22H27FN4O2
